US07432293B2
c) 3-[3-(6-Dimethylamino-pyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester
In a 50 ml round flask, a mixture of 5.6 (31.1 mmol) of isophtalic acid monomethyl ester and 6.71 g (34.2 mmol, 1.1 eq.) of carbonyl-diimidazole is stirred for 1 h at rt. Then, 5.60 g (31.1 mmol) of 6-dimethylamino-N-hydroxy-nicotinamidine is added and the resulting mixture stirred for another 3 h. After completion of the reaction, the solvent is removed. The resulting residue is suspended in water, vigorously stirred and then filtered. The obtained solid is washed two times with diethyl-ether and dried. This yields 10.0 g (94%) of a light yellow solid. Mass spectrum: m/z (M+H)+: 343.1The crude intermediate (9.8 g (28.7 mmol) is then redissolved in 200 ml of THF and 1.81 g (5.7 mmol, 0.2 eq.) of tetrabutyl-ammonium fluoride tri-hydrate TBAF) is added. After 1.5 h, another 0.2 eq. of TBAF is and the mixture stirred at rt for 20 h. Then, solvent is removed under vacuo, and the residue taken up in 200 ml of dichloro-methane and washed twice with NaHCO3 (5%). The combined aqueous phases are extracted three times with dichloro-methane, the combined organic phases dried (Na2SO4) and concentrated. This yields the title compound as light yellow solid, which is used for the next step without purification. Mass spectrum: m/z (M+H)+: 325.2

reactant | isophtalic acid monomethyl ester | COC(C1=CC(C(=O)O)=CC=C1)=O | C9H8O4
reactant | carbonyl-diimidazole | 34.2 mmol, 6.71 g, 1.1 eq. | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 6-dimethylamino-N-hydroxy-nicotinamidine | 31.1 mmol, 5.60 g | CN(C1=NC=C(C(=N)NO)C=C1)C | C8H12N4O
reactant | TBAF | 0.2 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-[3-(6-Dimethylamino-pyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC(=NO1)C=1C=NC(=CC1)N(C)C)=O | C17H16N4O3
